US08258144B2
3-(4-(2-(4-(4-acetylpiperazin-1-yl)phenylamino)-5-fluoropyrimidin-4-yl)piperazin-1-yl)-3-oxopropanenitrile
To a suspension of cyanoacetic acid (85 mg, 1.00 mmol) in CH2Cl2 (2 mL) (containing 2 drops of DMF) at room temperature, oxalyl chloride (0.082 mL, 0.94 mmol) was added. Gas evolved and suspension became clear. It was then stirred for 50 min. To the above solution cooled in an ice bath, a solution of 1-(4-(4-(5-fluoro-4-(piperazin-1-yl)pyrimidin-2-ylamino)phenyl)piperazin-1-yl)ethanone (23 mg, 0.057 mmol) and TEA (0.400 mL, 2.87 mmol) in DMF (1 mL) was added drop wise. The mixture was then stirred at room temperature for 90 min. It was concentrated in vacuo. The residue was purified by HPLC to give the titled compound (17 mg). MS 467.5 (M+H); UV 201.0, 269.4 nm

reactant | cyanoacetic acid | 1.00 mmol, 85 mg | C(#N)CC(=O)O | C3H3NO2
reactant | oxalyl chloride | 0.94 mmol, 0.082 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1-(4-(4-(5-fluoro-4-(piperazin-1-yl)pyrimidin-2-ylamino)phenyl)piperazin-1-yl)ethanone | 0.057 mmol, 23 mg | FC=1C(=NC(=NC1)NC1=CC=C(C=C1)N1CCN(CC1)C(C)=O)N1CCNCC1 | C20H26FN7O
catalyst | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 3-(4-(2-(4-(4-acetylpiperazin-1-yl)phenylamino)-5-fluoropyrimidin-4-yl)piperazin-1-yl)-3-oxopropanenitrile | 17 mg | C(C)(=O)N1CCN(CC1)C1=CC=C(C=C1)NC1=NC=C(C(=N1)N1CCN(CC1)C(CC#N)=O)F | C23H27FN8O2
